US09315521B2
To a 0° C. solution of 3,5-dimethyl-1,2-oxazole-4-carbaldehyde (1.0 g, 8.0 mmol) in anhydrous methanol (60 mL) was added sodium borohydride (450 mg, 12.0 mmol). The reaction mixture was stirred at room temperature overnight. Water (50 mL) was added and methanol was evaporated. The resultant mixture was extracted with EtOAc (1×50 mL) and CH2Cl2 (3×50 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (3,5-dimethyl-1,2-oxazol-4-yl)methanol (805 mg, 79% yield). The product was used without further purification.

reactant | 3,5-dimethyl-1,2-oxazole-4-carbaldehyde | 8.0 mmol, 1.0 g | CC1=NOC(=C1C=O)C | C6H7NO2
reactant | sodium borohydride | 12.0 mmol, 450 mg | [BH4-].[Na+]
reactant | Water | 50 mL | O | H2O
solvent | methanol | 60 mL | CO | CH4O
product | (3,5-dimethyl-1,2-oxazol-4-yl)methanol | 805 mg, 79% yield | CC1=NOC(=C1CO)C | C6H9NO2
